US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(3-methyl-isoxazol-5-ylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
3-Methyl-isoxazol-5-ylamine was stirred at 60° C. with 1 eq CDI and a catalytic amount of DMAP in DCE for 1 hour, then cooled. A solution of (S)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (1 eq) in DCE was added and stirred at 60° C. for 1 hour. The reaction mixture was cooled, then directly purified by flash chromatography The resulting compound was hydrolyzed according to General Procedure B to give the title compound (4 mg). LCMS (m/z) 879.

reactant | 3-Methyl-isoxazol-5-ylamine | CC1=NOC(=C1)N | C4H6N2O
reactant | CDI | 1 eq | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (S)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | 1 eq | COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H39Cl2N3O7
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | ClCCCl | C2H4Cl2
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(3-methyl-isoxazol-5-ylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | 4 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(NC3=CC(=NO3)C)=O)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)OC3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C46H41Cl2N5O9
